US05861401
A solution of 2-amino-3,5-dibromopyrazine (obtained as described in Gazz. Chim. Ital., 1960, 90, 1807) (1.26 g) and sodium ethoxide (0.4 g) in ethanol (50 ml) was heated under reflux for 4 hours. Volatile material was removed by evaporation and the residue was partitioned between water (20 ml) and ethyl acetate (50 ml). The organic layer was separated and dried (MgSO4). Volatile material was removed by evaporation to give 2-amino-5-bromo-3-ethoxypyrazine (0.95 g); 1H NMR (d6 -DMSO): 1.4 (t, 3H), 4.3 (q, 2H), 6.4 (br s, 2H), 7.6 (s, 2H); mass spectrum (+ve CI): 218 (M+H)+.

reactant | 2-amino-3,5-dibromopyrazine | 1.26 g | NC1=NC=C(N=C1Br)Br | C4H3Br2N3
reactant | sodium ethoxide | 0.4 g | [O-]CC.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-amino-5-bromo-3-ethoxypyrazine | 0.95 g | NC1=NC=C(N=C1OCC)Br | C6H8BrN3O
